US06017919
2-(4-Methoxy-3-pentyloxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole (373 mg, 1.28 mmol, 1 eq) was dissolved in dimethoxyethane (7 ml). The solution was cooled to -60° C., and n-butyllithium (1.6M hexane solution)(1.76 ml, 2.82 mmol, 2.2 eq) was added dropwise. The mixture was stirred at said temperature for 1.5 hours. Ethylene oxide was added dropwise, and the mixture was stirred for 1.0 hour. The mixture was heated to room temperature, and further stirred for 2 hours. Water (50 ml) was added to the reaction mixture, and the mixture was extracted twice with ethyl acetate (50 ml). The organic layers were combined, washed with saturated brine (100 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=3/1-2/1) to give [6-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-3-methoxy-2-pentyloxyphenyl]ethanol (164 mg, 38.2%) as an oil.

reactant | 2-(4-Methoxy-3-pentyloxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole | 1.28 mmol, 373 mg, 1 eq | COC1=C(C=C(C=C1)C=1OCC(N1)(C)C)OCCCCC | C17H25NO3
reactant | n-butyllithium | 2.82 mmol, 1.6M, 1.76 ml, 2.2 eq | C(CCC)[Li]
reactant | Ethylene oxide | C1CO1 | C2H4O
reactant | Water | 50 ml | O | H2O
solvent | dimethoxyethane | 7 ml | C(OC)COC | C4H10O2
product | [6-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-3-methoxy-2-pentyloxyphenyl]ethanol | 164 mg, 38.2% | CC1(N=C(OC1)C1=CC=C(C(=C1C(C)O)OCCCCC)OC)C | C19H29NO4
